US07304081B2
Step 4. methyl (2S,4R)-4-phenylpyrrolidine-2-carboxylate
1-tert-Butyl 2-methyl (2S)-4-hydroxy-4-phenylpyrrolidine-1,2-dicarboxylate (0.32 g, 0.0010 mol) was treated with trifluoroacetic acid (1.00 mL, 0.0130 mol) and methylene chloride (1.00 mL, 0.0156 mol) at rt for 4 h. The solvents were evaporated and the residue was dissolved in methanol (5.0 mL, 0.12 mol). Palladium (50.0 mg, 0.000470 mol) was added under nitrogen and the resulting mixture was hydrogenized with a hydrogen-gas-filled-balloon for 3 h. The mixture was filtered and the filtrate was concentrated to give the desired product, which was directly used in the next step without further purification.

reactant | 1-tert-Butyl 2-methyl (2S)-4-hydroxy-4-phenylpyrrolidine-1,2-dicarboxylate | 0.0010 mol, 0.32 g | OC1(C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)C1=CC=CC=C1 | C17H23NO5
reactant | trifluoroacetic acid | 0.0130 mol, 1.00 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 0.0156 mol, 1.00 mL | C(Cl)Cl | CH2Cl2
reactant | methanol | 0.12 mol, 5.0 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium | 0.000470 mol, 50.0 mg | [Pd] | Pd
product | methyl (2S,4R)-4-phenylpyrrolidine-2-carboxylate | C1(=CC=CC=C1)[C@H]1C[C@H](NC1)C(=O)OC | C12H15NO2
